US04997943
0.13 g of 20% w/w palladium-on-carbon was added to a solution of 0.99 g (0.0025 mole) of 1-t-butoxycarbonyl-3-dibenzylamino-4-methoxypyrrolidine dissolved in 15 ml of ethanol, and the mixture was stirred vigorously at 50° C. for 4 hours in an atmosphere of hydrogen. The catalyst was filtered off from the reaction mixture, after which the filtrate was concentrated by evaporation under reduced pressure, to give 0.44 g of 3-amino-1-t-butoxycarbonyl-4-methoxypyrrolidine as a colorless oil.

reactant | 1-t-butoxycarbonyl-3-dibenzylamino-4-methoxypyrrolidine | 0.0025 mole, 0.99 g | C(C)(C)(C)OC(=O)N1CC(C(C1)OC)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H32N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-amino-1-t-butoxycarbonyl-4-methoxypyrrolidine | 0.44 g | NC1CN(CC1OC)C(=O)OC(C)(C)C | C10H20N2O3
